US07728035B2
4,5-Bisbutyryloxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid
4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid (3.0 g) was suspended in pyridine (100 ml) and stirred at RT for 30 mins. Butyryl chloride was added (3.6 g, 5 equiv.) to give a clear reaction mixture which was stirred at RT over the weekend. The reaction mixture was reduced to a smaller volume and quenched with 2M HCl (200 ml), adjusting the pH to pH 2. An orange solid was isolated by filtration. This solid was slurried in water (30 ml) followed by ethyl acetate (30 ml) and dichloromethane (30 ml), and isolated by filtration as a yellow solid (2.0 g, 45%).

reactant | 4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid | 3.0 g | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)C(=O)O | C15H8O6
reactant | Butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 30 ml | O | H2O
product | 4,5-Bisbutyryloxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid | 2.0 g, 45% | C(CCC)(=O)OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(CCC)=O)=O)C(=O)O | C23H20O8
